US03951978
1-p-Fluorobenzoyl-1,3-dimorpholino-propane.
A solution of 10 g. of 1-p-fluorobenzoyl-1-bromo-3-chloro-propane, 12.5 g. of morpholine and a catalytic quantity of potassium iodide in 100 cc. xylene is made to reflux for 12 hours and then cooled. The resulting solid is filtered and the filtrate extracted with dilute HCl. The separated aqueous phase is filtered hot using animal charcoal, cooled, made alkaline with dilute soda solution, and extracted with diethyl ether. The organic phases are combined, washed with water, dried and evaporated, m.p. : 82°C (from hexane).

reactant | 1-p-fluorobenzoyl-1-bromo-3-chloro-propane | FC1=CC=C(C(=O)C(CCCl)Br)C=C1 | C10H9BrClFO
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | potassium iodide | [I-].[K+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-p-Fluorobenzoyl-1,3-dimorpholino-propane | FC1=CC=C(C(=O)C(CCN2CCOCC2)N2CCOCC2)C=C1 | C18H25FN2O3
